US05254575
Boron tribromide (3.7 ml) was added dropwise under nitrogen to a suspension of 4-(4-methoxyphenyl)-thiazole-2-carboxamide (3 g) in dichloromethane (45 ml). The mixture was stirred at room temperature for 2 h, then under reflux for 2 h and then cooled, after which water (60 ml) was added cautiously. The precipitate was filtered and the collected solid was dried under vacuum at 50° C., and recrystallised from methanol to give 4-(4-hydroxyphenyl)-thiazole-2-carboxamide (2.03 g), m.p. 223°-227° C.

reactant | Boron tribromide | 3.7 ml | B(Br)(Br)Br | BBr3
reactant | 4-(4-methoxyphenyl)-thiazole-2-carboxamide | 3 g | COC1=CC=C(C=C1)C=1N=C(SC1)C(=O)N | C11H10N2O2S
reactant | water | 60 ml | O | H2O
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 4-(4-hydroxyphenyl)-thiazole-2-carboxamide | 2.03 g | OC1=CC=C(C=C1)C=1N=C(SC1)C(=O)N | C10H8N2O2S
